US06858585B1
To a solution of 3-hydroxyoctanoic acid (1.90 g) and triethylamine (1.65 ml) in DMF (20 ml) was added benzyl bromide (1.41 ml) and the mixture was stirred at room temperature for 3 days. After the solvent was removed in vacuo, ethyl acetate and water were added to the residue. The separated ethyl acetate layer was washed twice with water and then dried over anhydrous sodium sulfate. After concentration, the residue was purified by a silica gel column chromatography (silica gel 15 g, chloroform: methanol=100:0-8) to afford 1.71 g of benzyl 3-hydroxyoctanoate.

reactant | 3-hydroxyoctanoic acid | 1.90 g | OC(CC(=O)O)CCCCC | C8H16O3
reactant | triethylamine | 1.65 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 1.41 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | benzyl 3-hydroxyoctanoate | 1.71 g | OC(CC(=O)OCC1=CC=CC=C1)CCCCC | C15H22O3
